US04049417
As an alternative to obtaining a mixture of Schiff bases VI and VI(a) or VI(b), the reaction can be conducted stepwise. For example, 1,2-diaminoethane may be converted to a Schiff base with 1,5-di-(4-isopropylcyclohexyl)-3-pentanone, catalytically reduced, then the ring nitrogen selectively cyanoethylated with acrylonitrile, followed by catalytic hydrogenation to furnish [1,5-di-(4-isopropylcyclohexyl)-3-pentyl]-1,4,8-triazaoctane.

reactant | 1,2-diaminoethane | NCCN | C2H8N2
reactant | 1,5-di-(4-isopropylcyclohexyl)-3-pentanone | C(C)(C)C1CCC(CC1)CCC(CCC1CCC(CC1)C(C)C)=O | C23H42O
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | [1,5-di-(4-isopropylcyclohexyl)-3-pentyl]-1,4,8-triazaoctane | C(C)(C)C1CCC(CC1)CCC(CCC1CCC(CC1)C(C)C)NCCNCCCN | C28H57N3
